US09034866B2
Synthesis of (±)-Methyl 10-bromo-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with 1-methylpyrazole-5-carbaldehyde to afford 385 mg (59% yield) of the title compound.

reactant | Methyl 10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1 | C15H13BrN2O2
reactant | 1-methylpyrazole-5-carbaldehyde | CN1N=CC=C1C=O | C5H6N2O
product | (±)-Methyl 10-bromo-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 385 mg, 59% yield | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(C3=CC=NN3C)O)C1 | C20H19BrN4O3
